US08303944B2
The 28% ammonium hydroxide (15 mL) was added to a solution of (Z)-1-(4-bromophenyl)-2-(hydroxyimino)pentan-1-one (1.5 g, 5.55 mmol) and (S)—N—BOC-prolinal (1.1 g, 5.55 mmol) in methanol (60 mL) and stirred for 18 hours at 24° C. The reaction mixture was partitioned between CH2Cl2 and water and the organic phase concentrated and applied (CH2Cl2) to a 40 (M) Biotage silica gel column. Gradient elution, 5-100%, over 1 L (A=Hexanes; B=ethyl acetate) gave (S)-tert-butyl 2-(4-(4-bromophenyl)hydroxy-5-propyl-1H-imidazol-2-yl)pyrrolidine-1-carboxylate (863 mg, 34.5% yield). 1H NMR (500 MHz, DMSO-d6) δ 7.54 (m, 4H), 5.0-4.88 (m, 1H), 3.53-3.41 (m, 1H), 3.41-3.36 (m, 1H), 2.72 (t, J=7.0 Hz, 2H), 2.24-2.03 (m, 2H), 1.96-1.91 (m, 1H), 1.89-1.81 (m, 1H), 1.60 (h, J=7.6 Hz, 2H), 1.39/1.17 (s, 9H). 0.92 (t, J=7.0 Hz, 3H). RT=1.9 min, (Condition 1) LCMS: Anal. Calcd. for C21H28BrN3O3 450.13. found: 450.33 (M+H)+.

reactant | ammonium hydroxide | 15 mL | [OH-].[NH4+]
reactant | (Z)-1-(4-bromophenyl)-2-(hydroxyimino)pentan-1-one | 5.55 mmol, 1.5 g | BrC1=CC=C(C=C1)C(\C(\CCC)=N/O)=O | C11H12BrNO2
reactant | (S)—N—BOC-prolinal | 5.55 mmol, 1.1 g | C(=O)(OC(C)(C)C)N1[C@H](C=O)CCC1 | C10H17NO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 60 mL | CO | CH4O
product | (S)-tert-butyl 2-(4-(4-bromophenyl)hydroxy-5-propyl-1H-imidazol-2-yl)pyrrolidine-1-carboxylate | 863 mg, 34.5% yield | BrC1=CC=C(C=C1)C=1N=C(N(C1CCC)O)[C@H]1N(CCC1)C(=O)OC(C)(C)C | C21H28BrN3O3
